US08283454B2
Preparation of (2,2-dibromocyclopropyl)benzene
In a 1 liter 3-neck flask, bromoform (312 g, 1.23 mol) was added dropwise over 120 min to stirred solution of styrene (100 g, 0.96 mol), benzyltriethylammonium chloride (7 g, 0.031 mol) and powdered potassium hydroxide (80.6 g, 1.44 mol) in dichloromethane (480 mL) at 40° C. The mixture was stirred at 25° C. for 20 h. The reaction mixture was filtered through a short plug of silica and the filtrate was concentrated. The dark residue was distilled at 80° C. under reduced pressure (about 50 Pa) to give the desired product as pale yellow liquid (233 g, yield 88%, purity 98% by HPLC(UV)). 1H NMR (CDCl3, 400 MHz): δ 7.38˜7.42 (m, 3H), 7.29˜7.31 (m, 2H), 2.98˜3.03 (m, 1H), 2.15˜2.20 (m, 1H), 2.04˜2.08 (m, 1H).

reactant | bromoform | 1.23 mol, 312 g | C(Br)(Br)Br | CHBr3
reactant | styrene | 0.96 mol, 100 g | C=CC1=CC=CC=C1 | C8H8
reactant | potassium hydroxide | 1.44 mol, 80.6 g | [OH-].[K+]
catalyst | benzyltriethylammonium chloride | 0.031 mol, 7 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 480 mL | ClCCl | CH2Cl2
product | (2,2-dibromocyclopropyl)benzene | 233 g, yield 88% | BrC1(C(C1)C1=CC=CC=C1)Br | C9H8Br2
